US05620997
2-Dimethylamino-4-mercapto-pyrimidine-5-carboxylic acid benzylamide
Using the procedure of Preparation 34, 14.3 g (0.045 mol) of 4-chloro-2-dimethylamino-pyrimidine-5-carboxylic acid benzylamide and 12 g (0.21 mol) of sodium hydrogen sulfide were reacted to give 5.7 g of the title compound, mp 175°-178° C.

reactant | 4-chloro-2-dimethylamino-pyrimidine-5-carboxylic acid benzylamide | 0.045 mol, 14.3 g | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N(C)C)Cl | C14H15ClN4O
reactant | sodium hydrogen sulfide | 0.21 mol, 12 g | S.[Na]
product | 2-Dimethylamino-4-mercapto-pyrimidine-5-carboxylic acid benzylamide | 5.7 g | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N(C)C)S | C14H16N4OS
